US07855216B2
Step 1: 4-Cyclopropyl-2-fluoro-1-iodo-benzene
4-Cyclopropyl-2-fluoro-phenylamine (400 mg, 2.65 mmol) was dissolved in water (5 ml) and cooled to 0° C. Concentrated sulfuric acid (1.6 ml) was added dropwise slowly, followed by a solution of sodium nitrite (0.18 ml, 2.65 mmol) in water (1 ml). The resulting mixture was added to a solution of potassium iodide (0.43 g, 5.30 mmol) in water (1 ml). The mixture was heated at 60° C. for 2 hours, then allowed to cool and extracted with dichloromethane (×2). The combined organic extracts were dried (Na2SO4) and concentrated in vacuo. Purification of the resultant residue by flash chromatography (Si-PPC, pentane) afforded the title compound as a pale yellow oil (490 mg, 71%). 1H NMR (CDCl3) 0.60-0.77 (2H, m), 0.94-1.06 (2H, m), 1.81-1.90 (1H, m), 6.64 (1H, dd, J=8.17, 2.01 Hz), 6.74-6.96 (1H, m), 7.53-7.64 (1H, m).

reactant | 4-Cyclopropyl-2-fluoro-phenylamine | 2.65 mmol, 400 mg | C1(CC1)C1=CC(=C(C=C1)N)F | C9H10FN
reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 2.65 mmol, 0.18 ml | N(=O)[O-].[Na+]
reactant | potassium iodide | 5.30 mmol, 0.43 g | [I-].[K+]
solvent | water | 5 ml | O | H2O
solvent | water | 1 ml | O | H2O
solvent | water | 1 ml | O | H2O
product | 4-Cyclopropyl-2-fluoro-1-iodo-benzene | 490 mg, 71% | C1(CC1)C1=CC(=C(C=C1)I)F | C9H8FI
